US07456177B2
Preparation of 4-Methyl-3,5,10-triaza-tricyclo[6.3.1.02,7]dodeca-2(7),3,5-triene
To a solution of 4-methyl-3,5,10-triaza-tricyclo[6.3.1.02,7]dodeca-2(7),3,5-triene-10-carboxylic acid tert-butyl ester (0.1 mmol) in methanol (2 ml) was added a solution of 1N HCl in methanol (2 mL). The reaction mixture was stirred for 3 h at room temperature and the solvents were removed to leave a solid (0.1 mmol). 1H NMR (CD3OD, 400 MHz) δ 8.40 (s, 1H), 4.20–3.80 (m, 2H), 3.40–3.00 (m, 4H), 2.60 (s, 3H), 2.10 (m, 1H), 0.80 (br s, 1H); APCl MS m/z 176.2 (M+H)+.

reactant | 4-methyl-3,5,10-triaza-tricyclo[6.3.1.02,7]dodeca-2(7),3,5-triene-10-carboxylic acid tert-butyl ester | 0.1 mmol | C(C)(C)(C)OC(=O)N1CC2C=3C=NC(=NC3C(C1)C2)C | C15H21N3O2
reactant | HCl | 1N | Cl | ClH
solvent | methanol | 2 ml | CO | CH4O
solvent | methanol | 2 mL | CO | CH4O
product | 4-Methyl-3,5,10-triaza-tricyclo[6.3.1.02,7]dodeca-2(7),3,5-triene | 0.1 mmol | CC1=NC=2C3CNCC(C2C=N1)C3 | C10H13N3
